US08957214B2
A solution of 36 mg (0.46 mmol) of 2-aminoethanethiol dissolved in 10 mL of ethanol was added to 100 mg (0.46 mmol) of 1,1,1-trifluoro-4,4-bis(methylthio)-3-buten-2-one obtained by the method described in Comparative Example 4, and the mixture was refluxed under heating for 6 hours, then stirred at room temperature for 13 hours. Following reaction completion, the ethanol was distilled off under reduced pressure, after which the condensate was dissolved in ethyl acetate and washed once with water. The washed product was dried over anhydrous magnesium sulfate, then concentrated under reduced pressure, giving 73 mg (yield, 81%) of 1,1,1-trifluoro-3-(thiazolidin-2-ylidene)propan-2-one.

reactant | 2-aminoethanethiol | 0.46 mmol, 36 mg | NCCS | C2H7NS
reactant | 1,1,1-trifluoro-4,4-bis(methylthio)-3-buten-2-one | 0.46 mmol, 100 mg | FC(C(C=C(SC)SC)=O)(F)F | C6H7F3OS2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 1,1,1-trifluoro-3-(thiazolidin-2-ylidene)propan-2-one | 73 mg, 81% | FC(C(C=C1SCCN1)=O)(F)F | C6H6F3NOS
